US20010018525A1
step 2 2,6-Diiodo-4-(8-phenyl-octylcarbamoyl)phenyl methyl ether
The title compound was prepared as a solid (0.691 g, 94%) from 2,6-diiodo-4-(8-phenyl-octylcarbamoyl)phenol using methyl iodide and a procedure similar to step 4 of Example 93; 1H NMR (DMSO-d6) δ1.19-1.34 (m, 8H), 1.41-1.61 (m, 4H), 2.48-2.59 (m, 2H), 3.21 (dd, J=6.4, 14.1 Hz, 2H), 3.78 (s, 3H), 7.10-7.21 (m, 3H), 7.21-7.31 (m 2H), 8.28 (s, 2H), 8.53 (t, J=5.6 Hz, 1H); mass spectrum [(+) ESI], m/z 592 (M+H)+, 614 (M+Na)+.

reactant | 2,6-diiodo-4-(8-phenyl-octylcarbamoyl)phenol | IC1=C(C(=CC(=C1)C(NCCCCCCCCC1=CC=CC=C1)=O)I)O | C21H25I2NO2
reactant | methyl iodide | CI | CH3I
product | 2,6-Diiodo-4-(8-phenyl-octylcarbamoyl)phenyl methyl ether | COC1=C(C=C(C=C1I)C(NCCCCCCCCC1=CC=CC=C1)=O)I | C22H27I2NO2
